US07091230B2
Step 1 Preparation of 2,4-dipropylresorcinol
The product 2,6-bis-allylresorcinol (33.5 gm) was dissolved in methanol and hydrogenated under H2 Pressure (initial pressure 45 psig) over 10% Pd on carbon (300 mg). The reaction mixture was filtered through celite and reduced i. vac. The crude oil was flushed through a short SiO2 gel column eluting with ethyl ether. The resulting oil was purified by crystallization from hexanes:ether.

reactant | 2,6-bis-allylresorcinol | 33.5 gm | C(C=C)C1=C(O)C(=CC=C1O)CC=C | C12H14O2
solvent | methanol | CO | CH4O
catalyst | Pd on carbon | 300 mg | [Pd] | Pd
product | 2,4-dipropylresorcinol | C(CC)C1=C(O)C=CC(=C1O)CCC | C12H18O2
